US07196104B2
Preparation CS: 2-[3-(Benzyloxycarbonylamino-methyl)-piperidin-1-yl]-thiazole-4-carboxylic acid ethyl ester
To a stirred solution of piperidin-3-ylmethyl-carbamic acid benzyl ester (43 mg, 0.17 mmol) in CH3CN (5 mL), at RT under N2, K2CO3 (26 mg, 0.19 mmol) and 2-bromo-thiazole-4-carboxylic acid ethyl ester (41 mg, 0.17 mmol) were added. The resulting mixture was heated at reflux for 29 h. The solvent was evaporated in vacuo. The residue was treated with a saturated solution of NH4Cl (aq) (10 mL) and extracted with EtOAc (10 mL). The organic layer was separated, dried over Na2SO4, filtered and the solvent evaporated in vacuo. The residue was purified by flash chromatography on silica gel (1:2, EtOAc:hexane) to yield the title compound as a colorless oil. MS m/z: 404.2 (M+H). Calc'd. for C20H25N3O4S-403.50.

reactant | piperidin-3-ylmethyl-carbamic acid benzyl ester | 0.17 mmol, 43 mg | C(C1=CC=CC=C1)OC(NCC1CNCCC1)=O | C14H20N2O2
reactant | K2CO3 | 0.19 mmol, 26 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-thiazole-4-carboxylic acid ethyl ester | 0.17 mmol, 41 mg | C(C)OC(=O)C=1N=C(SC1)Br | C6H6BrNO2S
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 2-[3-(Benzyloxycarbonylamino-methyl)-piperidin-1-yl]-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1)N1CC(CCC1)CNC(=O)OCC1=CC=CC=C1 | C20H25N3O4S
